2178-11-24 05:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Bolused 4L IVF in early admission/am then BP stable, good UOP
   Had EEG. Read Pending
   Vanc/[**Last Name (un) 1540**]/Flagyl. h/o ESBL
   GPC in blood. Surveillance cx ordered for am
   CT scan FOS. ? osteo. Wound care consult not done. Added on ESR, CRP.
   Added bowel regimen
   LENIS: No DVT
   Had EEG. Read pending
   FeNa 0.5%
   IMPRESSION:
   1. Increasing abdominal distention likely related to severe
   constipation and
   possible fecal impaction. No CT findings on this non-contrast study to
   suggest ischemia.
   2. Small bilateral pleural effusions and left greater than right
   airspace
   consolidation, likely atelectasis.
   3. Medullary and caliceal calcifications involving atrophic and scarred
   kidneys bilaterally, suggestive of underlying medullary
   nephrocalcinosis.
   Bilateral hypoattenuating renal lesions are not fully characterized on
   this
   non-contrast study but likely represent benign cysts.
   4. Gluteal, pelvic, and psoas musculature wasting as well as multiple
   decubital ulcerations extending to the bony surfaces. Regions of
   sclerosis
   are noted within the adjacent upper sacrum and right ischial tuberosity
   which
   likely reflect changes from subacute or chronic osteomyelitis. Acute
   osteomyelitis cannot be completely excluded and should be correlated
   with
   clinical exam.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-11-23**] 08:35 AM
   Vancomycin - [**2178-11-23**] 08:04 PM
   Meropenem - [**2178-11-24**] 12:00 AM
   Metronidazole - [**2178-11-24**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-11-24**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-11-24**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 74 (61 - 87) bpm
   BP: 114/74(84) {81/49(48) - 157/99(114)} mmHg
   RR: 15 (10 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,730 mL
                                                                    246 mL
   PO:
             TF:
   IVF:
                                                                  4,830 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                    690 mL
   Urine:
                                                                  2,105 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,625 mL
                                                                   -444 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 48 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.36/55/141/31/4
   Ve: 6.7 L/min
   PaO2 / FiO2: 353
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   164 K/uL
   9.7 g/dL
   79 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.5 mEq/L
   22 mg/dL
   103 mEq/L
   139 mEq/L
   29.5 %
   6.8 K/uL
        [image002.jpg]
                            [**2178-11-23**]  10:03 AM
                            [**2178-11-23**]  08:05 PM
                            [**2178-11-24**]  04:29 AM
   WBC
   6.8
   Hct
   30
   33
   29.5
   Plt
   164
   Cr
   1.0
   TCO2
   37
   32
   Glucose
   79
   Other labs: PT / PTT / INR:13.6/27.5/1.2, D-dimer:729 ng/mL, Lactic
   Acid:0.5 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Pt is a 54 yr old C6 paraplegic with suprapubic catheter, recurrent
   UTI, hx of pseudoseizures presenting with episode of non responsiveness
   now resolved, and concern for urosepsis.
   # Hypercarbic respiratory failure: Patient with increasing oxygen
   requirement, found to be hypoxic upon transfer to the floor.  Initial
   ABG 7.26/86/81, at which point MICU consult was obtained.  Upon initial
   MICU evaluation, patient was minimally responsive to sternal rub with
   ABG 7.27/86/50.  Intubation on floor as above.  ABG consistent with
   acute on chronic respiratory acidosis.  Chronicity likely [**3-7**] to
   ?COPD/emphysema from 1ppd with poor mechanical reserve [**3-7**]
   quadriplegia.  Worsening could be [**3-7**] occult infection with elevated
   lactate, distended abdomen.  R leg erythematous, warm.  Given Lovenox
   on floor for ?DVT.   Note, patient ate sandwhich prior to intubation,
   so continued concern for aspiration event.  Ddimer 729.
   - Continue AC ventilation, fentanyl / versed sedation
   - Chlorhexidate
   - HOB elevation
   - RSBI daily with SBT when indicated
   - CXR upon arrival for ET placement/NGT placement
   - ABG on vent
   - Outside records RE:PMH with pulmonary disease / quadraplegia
   - LENI to r/o DVT R leg
   #Episode of unresponsiveness: Resolved upon ED presentation and initial
   arrival to floor.  Alert and oriented x 3 talking fluently. Then with
   respiratory failure as above.  Unclear whether related to infection
   potential urosepsis, related to psychiatric illness, over sedation with
   medications. Hx of pseudoseizures as per limited Pmhx, allergies to
   dilantin and tegretol. Medication related a possibility given
   amitry/baclofen/oxycodone/risperdal/ativan. Rapidly changing
   ventilatory status as above.  Now appears unresponsive may have been
   worsening hypercarbia.  Ddimer 729.
   - vanc/zosyn for UTI, skin or potential pulmonary source
   - Flagyl for potential GI source
   - telemetry
   - seizure precautions
   - aspiration precautions
   - f/u urine cx, blood cx
   - Continue mechanical ventilation as above
   # Hyperlactatemia: With multiple possible sources as above.  Did have
   some interval improvement on repeat.  Likely [**3-7**] infection vs poor
   perfusion and hypoxia.  Another potential source is bowel ischemia
   given distension.  Prior to intubation, however, patient reportedly
   denied any TTP, no bloody rectal output.  Cannot CTA given contrast
   allergy
   - Antibiotics as above
   - Culture as above
   # Abdominal distension: Unclear etiology.  Is quadraplegic and with
   multiple bowel meds, likely has some underlying poor motility.  Also
   with C.dif and reportedly had decreased stool output for several days,
   concerning for constipating C.diff.  Lastly, s/p intubation and bag
   mask ventilation with possible gas trapping.  Lastly, given lactate,
   some concern for ischemia as above, but no h/o of vasculopathy.  Does
   have AAA, so could have dissection, but would suspect it to be more
   painful upon presentation.
   - Culture as above
   - Send C.diff x 3
   - CT abdomen with po contrast via NGT.
   # Acidosis: As above. Concern for chronic respiratory acidosis with
   compensatory elevated bicarbonate, now with acute decompensation.
   - Ventilation
   - Goal to extubate
   - Obtain outside records to assess underlying etiology
   # ? Positive UA- Given indwelling suprapubic catheter, could represent
   colonization vs true pathogen.
   - Follow-up urine culture
   - Wound care/change suprapubic catheter
   - antibiotics as above
   # C6 quad: Holding meds for spacticity given sedation.
   - Restart outpatient medications as status improves
   # LE swelling and erythema: Right leg with BKA.  Upon presentation with
   potential cellulitis, no evidence of necrotizing fascitis.  Per report
   prior to transfer to the ICU, his RLE was not painful and was with
   normal sensation. Given swelling and hypoxia, will obtain LENI.
   -Vanc/zosyn for cellulitis
   -LENI
   -one dose of lovenox given prior to transfer to MICU, no hx of bleeding
   disorders in the past
   # Renal failure: Hx of CRI, unknown baseline, no records. Unable to
   reach PCP.  [**Name10 (NameIs) 1527**] to 1.3 after IVF resuscitation in ED.
   - Obtain urine lytes, osms
   - Follow-up urine culture
   - Change out catheter
   - Trend Cr
   - Obtain VA/PCP [**Name Initial (PRE) 1528**]
   # Anemia: unknown baseline to 36. No active bleeding on initial exam
   per report.  Given Lovenox upon arrival to the floor given concern for
   DVT in RLE and unable to obtain CTA.  Difficulty intubation.  Now with
   bloody secretions being suctioned from airway.  Also with known AAA.
   Repeat HCT upon arrival to floor  30.9 in setting of IV resuscitation.
   - iron studies
   - Guaiac all stools
   - Add on T&S
   - Recheck HCT in 6 hours post-prior
   # AAA: Per report patient has ?stable AAA.  No e/o bleeding or rupture
   at this point.
   - Obtain CT abdomen with po contrast, should still be able to assess
   for acute bleed
   - Obtain outpatient records
   # Psychiatric history: ?Schizophrenia.  On Risperdal and
   Amitriptyline.
   - With NGT in place, will continue Amitriptyline to avoid withdrawal
   - Consider restart Risperdal
   # Hyperglycemia: No h/o DM.
   - FS QID / ISS
   F: Euvolemic on exam
   E: Replete K / Check Ca, Mg, Phos
   N: NPO for now, NGT in place if plan on TF in future
   Ppx: Given Lovenox x 1, SCD on L leg, bowel PRN
   Access: RIJ, placed [**2178-11-23**]
   CODE: FULL CODE (confirmed with family on admission)
   # Communication: With patient, brother [**Name (NI) 1529**] [**Telephone/Fax (1) 1530**]
   [**Name2 (NI) 1531**]osition:  Will remain in the ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-11-23**] 04:25 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2178-11-24 10:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.  Tolerating IPS mode,
   gradually decreasing IPS level to 10 cm H2O.  Moving to SBT this AM.
   No significant secretions.
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: ETT
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-11-23**] 08:35 AM
   Meropenem - [**2178-11-24**] 06:00 AM
   Vancomycin - [**2178-11-24**] 07:40 AM
   Metronidazole - [**2178-11-24**] 07:41 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-11-24**] 05:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-11-24**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 82 (61 - 89) bpm
   BP: 122/70(81) {81/52(48) - 157/99(114)} mmHg
   RR: 19 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  5,730 mL
                                                                    944 mL
   PO:
             TF:
   IVF:
                                                                  4,830 mL
                                                                    684 mL
   Blood products:
   Total out:
                                                                  2,105 mL
                                                                  1,170 mL
   Urine:
                                                                  2,105 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,625 mL
                                                                   -226 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 399 (399 - 399) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.36/55/141/31/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, suprapubic catheter
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing, Right BKA
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: erythema right thigh, No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, Parapletic; UE parases (moves shoulders)
   Labs / Radiology
   9.7 g/dL
   164 K/uL
   79 mg/dL
   1.0 mg/dL
   31 mEq/L
   4.5 mEq/L
   22 mg/dL
   103 mEq/L
   139 mEq/L
   29.5 %
   6.8 K/uL
        [image002.jpg]
                            [**2178-11-23**]  10:03 AM
                            [**2178-11-23**]  08:05 PM
                            [**2178-11-24**]  04:29 AM
   WBC
   6.8
   Hct
   30
   33
   29.5
   Plt
   164
   Cr
   1.0
   TCO2
   37
   32
   Glucose
   79
   Other labs: PT / PTT / INR:13.6/27.5/1.2, D-dimer:729 ng/mL, Lactic
   Acid:0.5 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Microbiology: BLood culture GPC
   Assessment and Plan
   Sepsis,clinically  improved.
   RESPIRATORY FAILURE -- good progress. Underlying COPD, receiving good
   regimen.  Taper steroids once extubated.
   SEPSIS -- good response to current managment.  Thigh and scrotal
   erythema improved.  With GPC bacteremia likely cellulitis as source,
   although also consider UTI, indwelling hardware.  Continue empirical
   antimicrobials.
   UTI -- may or may not be etiology of sepsis.  With fecal contamination
   or urine, may be contaminant, but consider [**Last Name (un) **]-vesicular fistula.
   Repeat U/A and culture.
   FLUIDS -- replete.  Monitor I/O, maintain balance.
   NUTRITIONAL SUPPORT -- NPO until extubated.
   QUADRAPLEGIA -- no new problems.  Continue current care.
   POSSIBLE OSTEOmyelitis -- identified by CT scan.   [**Month (only) 11**] be resolving
   infection, but need to confirm evaluation to date by recent records.
   [**Month (only) 11**] need dedicated Spine CT or MRI. Deep-seeded osteo may be source of
   seeding of cellulitis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-11-23**] 04:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 55 minutes
   Patient is critically ill

2178-11-25 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Extubated
   Evaluated by speech and swallow: not able to r/o silent aspiration; rec
   video swallow, nectar thick liquids and soft solids until video
   swallow, pills crushed with puree, 1:1 supervision during pos.
   Started on home Baclofen and Lorazepam doses
   Wound Care: pressure redistribution, turning, and keep L heel off bed.
   Multiple BM with Bowel Regimen
   Denies chest/abd pain, N/V, denies having BM and has paranoia (believes
people are looking at him
 and
feels unsafe
 in MICU)
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-11-23**] 08:35 AM
   Metronidazole - [**2178-11-24**] 04:16 PM
   Vancomycin - [**2178-11-24**] 08:00 PM
   Meropenem - [**2178-11-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-11-25**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 65 (65 - 91) bpm
   BP: 137/85(93) {108/63(76) - 137/97(102)} mmHg
   RR: 22 (18 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,455 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  1,195 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    590 mL
   Urine:
                                                                  3,510 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,055 mL
                                                                   -490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (Extubated yest) 4L
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 256 (256 - 399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 4%
   RSBI: 88
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin, Extubated, Alert and following commands
   Eyes / Conjunctiva: PERRL, EOMI, anicteric sclera
   Head, Ears, Nose, Throat: Normocephalic, with dentures s/p removal
   Cardiovascular: S1S2 No M/R/G
   Respiratory / Chest: mild rhonchi at apices anteriorly; crackles at
   left base, mild exp wheeze bilaterally.
   Abdominal: Soft, Non-tender, Mildly Distended, Bowel sounds present
   Extremities: Right: s/p BKA with decreased erythema, Left: with
   retraction [**3-7**] quadraplegia
   Skin:  less erythema compared to yesterday; did not assess
   sacral/lumbar spine today
   Labs / Radiology
   170 K/uL
   9.7 g/dL
   72 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.3 mEq/L
   24 mg/dL
   103 mEq/L
   142 mEq/L
   29.7 %
   6.5 K/uL
        [image002.jpg] Ca 8.5 Mg 2.5 PO 2.0; UCx([**11-24**]): pending; MRSA
   screen ([**11-24**]): pending; BCx ([**11-22**]): coag neg staph; U/A+:
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.007
   pH
   6.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Mod
   Bld
   Lg
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   Neg
   RBC
   [**4-8**]
   WBC
   >50
   Bact
   Mod
   Yeast
   None
   Epi
   0-2
   Comments:
   URINE WBC: Clumps Present
                            [**2178-11-23**]  10:03 AM
                            [**2178-11-23**]  08:05 PM
                            [**2178-11-24**]  04:29 AM
   WBC
   6.8
   Hct
   30
   33
   29.5
   Plt
   164
   Cr
   1.0
   TCO2
   37
   32
   Glucose
   79
   Other labs: PT / PTT / INR:13.6/27.5/1.2, D-dimer:729 ng/mL, Lactic
   Acid:0.5 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   54yoM C6 quadraplegic with suprapubic catheter, recurrent UTIs (h/o
   ESBL EColi), pseudoseizures, COPD p/w  hypercarbic respiratory failure
   and sepsis.
   # Acute Hypoxic Hypercarbic Respiratory Failure: Pt extubated over past
   24hrs, without issue, mental status much improved, currently on 4LNC
   with mid-high 90
s. Etiology includes COPD flare vs PNA vs abdominal
   distension. LENI negative for DVT. Respiratory status ? improvement
   with resolution of constipation and abdominal distension. D/c
   flagyl.
   - Cont Steroids for COPD flare with fast taper. Currently on Solumedrol
   40mg IV qday. Switch to prednisone 40mg PO qday x1day with 10mg taper
   each successive day.
   - Cont Vanc 1gm q12 (Day #3) for
 GPC/Coag-neg Staph in BCx,
   surveillance blood cultures. If follow up cultures suggest bacteremia,
   continue vanc for total of 14 days; if cultures are negative, treat for
   7 day course for cellulitis.
   # Sepsis. Pt now afebrile without leukocytosis. Sources include urine
   (although first UCx appeared potentially fecally contaminated; 2^nd UCx
   pending with +UA for UTI), cellulitis, PNA, osteomyelitis.
 GPCs with
   Coag-Neg Staph in BCx of 1 bottle; surveillance BCx pending.
   Hyperlactemia resolved. Cellulitis resolving.
   -          Surveillance blood cultures pending
   -          Cont Vanc for Coag Neg Staph/ [**Last Name (un) 1540**] 500mg IV q6 for potential
   ESBL Ecoli UTI (given pt has hx of resistant ESBL UTIs). Wait for UCx
   for possible ESBL EColi UTI vs Coag neg staph vs enterococcus.
   -          Will obtain MRI of L spine/pelvis w/o contrast to evaluate
   for Osteomyelitis, enterosacral fistula.
   #h/o sacral decubitus ulcer: Chronic, 6mo long issue. Denies pain
   although sensation questionable considering quadraplegia. CT shows
   multiple decubital ulcers extending to bony surfaces with
   ?subacute/chronic OM. ?re possibility of uro-enteric fistula
   considering fecal contamination in original urine sample.
   -          MRI of pelvis/L spine
   # Abdominal distension: Slightly decreased after CT abdomen showed FOS.
   Multiple BMs over past 24hrs.
   - Cont bowel regimen (docusate, bisacodyl, miralax)
   # C6 quad:. Restarted spasticity meds: baclofen.
   -baclofen 10mg PO QID
   -restart gabapentin
   # Renal failure: Improved. Cr 0.9 today. Unknown baseline. Likely
   pre-renal given improvement with fluids.
   - Follow-up urine culture
   # Anemia: Hct 29.7 today, stable.
   - Guaiac all stools
   - Add on T&S
   # Psychiatric history: ?Paranoid Schizophrenia.  On Risperdal,
   trazadone, and Amitriptyline.
   - Continue Amitriptyline to avoid withdrawal
   - Now extubated, restart Risperdal 4mg PO qday and trazadone 25mg PO
   qHS
   F: Euvolemic on exam
   E: Replete PRN; phosphorous to be repleted
   N: Nectar thick liquids for now, S&S unable to r/o silent aspiration,
   video Swallow exam today per S&S.
   Ppx: Bowel Regimen
   Access: RIJ, placed [**2178-11-23**]
   CODE: FULL CODE (confirmed with family on admission)
   # Communication: With patient, brother [**Name (NI) 1529**] [**Telephone/Fax (1) 1530**]
   [**Name2 (NI) 1531**]osition: Call out to floor.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 1564**] MSIV
   PGY 2 Note
   Agree with MSIV note as above.  Patient much improved, HD stable and
   without further respiratory distress.  Will plan on continued work-up
   with following cultures and obtain MRI L/S spine to evaluate for
   osteo.  Will restart all home medications.

2178-11-25 12:29:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2178-11-24**] 11:52 AM
   Extubated yesterday, remains extubated.
   Exhibiting some paranoid ideation, but not threatening.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Dilantin (Oral) (Phenytoin Sodium Extended)
   Unknown;
   Tegretol (Oral) (Carbamazepine)
   Unknown;
   Iodine; Iodine Containing
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-11-23**] 08:35 AM
   Meropenem - [**2178-11-25**] 06:00 AM
   Metronidazole - [**2178-11-25**] 06:30 AM
   Vancomycin - [**2178-11-25**] 08:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis, suprapubic
   catheter
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-11-25**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 89 (65 - 93) bpm
   BP: 109/59(72) {108/59(72) - 145/97(102)} mmHg
   RR: 27 (22 - 38) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,505 mL
                                                                    720 mL
   PO:
             100 mL
   TF:
   IVF:
                                                                  1,245 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                  1,160 mL
   Urine:
                                                                  3,510 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,005 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, suprapubic catheter
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: mild exema of face (unchanged), No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   9.7 g/dL
   170 K/uL
   72 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.3 mEq/L
   24 mg/dL
   103 mEq/L
   142 mEq/L
   29.7 %
   6.5 K/uL
        [image002.jpg]
                            [**2178-11-23**]  10:03 AM
                            [**2178-11-23**]  08:05 PM
                            [**2178-11-24**]  04:29 AM
                            [**2178-11-25**]  04:14 AM
   WBC
   6.8
   6.5
   Hct
   30
   33
   29.5
   29.7
   Plt
   164
   170
   Cr
   1.0
   0.9
   TCO2
   37
   32
   Glucose
   79
   72
   Other labs: PT / PTT / INR:13.6/27.5/1.2, D-dimer:729 ng/mL, Lactic
   Acid:0.5 mmol/L, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- stable s/p extubation.  Evidence for pneumonia.
   Complete antimicrobials.
   SEPSIS -- resolved.  Responded to current therapy.  Concerns for
   etiology included pneumonia, urinary source, cellulitis.  Complete
   antimicrobials.
   SACRAL OSTEO
 suggested by CT.  Plan dedicated spine MRI to further
   assess.
   SEIZURES -- stable.  No medications.
   PARNOID/SCHIZOPHRENIA -- resume usual medications.
   QUADRAPARASIS -- s/p remote MVA.  Continue daily care.
   NUTRITIONAL SUPPORT -- speech and swallow recommends video swallow
   evaluation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-11-23**] 04:25 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 55 minutes